US07902252B2
2.92. Synthesis of 4-(3-ethynylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (74)
The title compound was synthesized from methyl 4-(3-ethynylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.014 g, 0.050 mmol) and lithium hydroxide (0.021 g, 0.50 mmol in 0.5 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (1 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to afford the title compound: 2.8 mg, 21% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.04-2.13 (m, 1H), 2.48-2.59 (m, 1H), 2.59-2.66 (m, 2H), 2.76 (d, J=7.22 Hz, 2H), 3.22-3.29 (m, 1H), 3.41 (s, 1H), 6.30 (s, 1H), 7.18-7.22 (m, 1H), 7.25 (t, J=7.81 Hz, 1H), 7.28-7.30 (m, 1H), 7.31 (s, 1H); LCMS (ESI−) 264.2 (M−H); HPLC (UV=96.60%), (ELSD=100%).

reactant | methyl 4-(3-ethynylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.050 mmol, 0.014 g | C(#C)C=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1 | C18H17NO2
reactant | lithium hydroxide | 0.50 mmol, 0.5 mL, 0.021 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-(3-ethynylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | C(#C)C=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1 | C17H15NO2
